US06337326B1
8-[1,4]Diazepan-1-yl-quinoline
The title compound was prepared according to the procedure of Example 1, Step 6 except that 4-quinolin-8-yl-[1,4]diazepane-1-carboxylic acid tert-butyl ester was used in place of 4-(2-methoxy-phenyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester. Yield: 100%; 1H NMR (300 MHz, CDCl3): δ2.05 (pent, J=6.2 Hz, 2H), 3.11 (t, J=5.7, Hz, 2H), 3.31 (t, J=5.6 Hz, 2H), 3.68 (t, J=6.0 Hz, 2H), 3.75 (t, J=6.0 Hz, 2H), 4.47 (brs, 1H), 7.09 (dd, J=1.4, 7.4 Hz, 1H), 7.28-7.39 (m, 3H), 8.02 (dd, J=1.5, 7,5 Hz, 1H), 8.78 (d, J=1.4 Hz, 1H); IR (KBr, cm−1): 3309w; MS (ES) m/z (relative intensity): 228 (M++H, 60).

reactant | 4-quinolin-8-yl-[1,4]diazepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CCC1)C=1C=CC=C2C=CC=NC12 | C19H25N3O2
reactant | KBr | [K+].[Br-]
product | 8-[1,4]Diazepan-1-yl-quinoline | Yield: 100% | N1(CCNCCC1)C=1C=CC=C2C=CC=NC12 | C14H17N3
